US07645789B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-methyl-1H-indol-5-yl)cyclopropanecarboxamide
A solution of 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclopropanecarboxamide (75 mg, 0.20 mmol) and iodomethane (125 μL, 2.0 mmol) in N,N-dimethylformamide (1 mL) was heated at 120° C. in a sealed tube for 24 h. The reaction was filtered and purified by reverse phase HPLC. ESI-MS m/z calc. 390.5, found 391.3 (M+1)+; retention time 2.04 minutes. 1H NMR (400 MHz, DMSO-d6) δ 10.30 (s, 1H), 8.39 (s, 1H), 7.51 (m, 1H), 7.13-7.11 (m, 1H), 7.03-6.90 (m, 4H), 6.03 (s, 2H), 2.25 (s, 3H), 1.40-1.38 (m, 11H), 1.03-1.01 (m, 2H).

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclopropanecarboxamide | 0.20 mmol, 75 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(C)(C)C | C23H24N2O3
reactant | iodomethane | 2.0 mmol, 125 μL | IC | CH3I
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-3-methyl-1H-indol-5-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C(=C(NC1=CC2)C(C)(C)C)C | C24H26N2O3
